US06797828B1
Water (50 ml) and an aqueous solution of 25% NaOH (43.0 g) were added to 8 g of N-(2-amino-1,2-dicyanovinyl) formamidine (hereinafter abbreviated as AMD), and reacted under reflux for 2 hours. This aqueous solution was cooled to room temperature or below and adjusted the pH to 7 by adding 35% hydrochloric acid. The reaction solution was concentrated and exsiccated under reduced pressure followed by adding ethanol, and subsequently insoluble sodium chloride was filtrated and removed. The filtrate was treated with activated carbon and then concentrated to afford an ethanol solution of AICA. To lower the pH to 3 or less, 35% hydrochloric acid was added to this, cooled to 10° C. or less, and subsequently generated crystal was filtrated. This crystal was dried to yield 8.1 g of 4(5)-aminoimidazole-5-carboxamide (hereinafter abbreviated as AICA) hydrochloride (yield: 84%).

reactant | NaOH | 43.0 g | [OH-].[Na+]
reactant | N-(2-amino-1,2-dicyanovinyl) formamidine | 8 g | NC(=C(C#N)NC=N)C#N | C5H5N5
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 50 ml | O | H2O
product | AICA | C1=NC(=C(N1)C(=O)N)N | C4H6N4O
